US06548493B1
tert-butyl (6aS,10aR)-2-(2-chloro-4-methoxyphenyl)-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate
The title compound was prepared by the method of Example 89 step C from tert-butyl (6aS,10aR)-2-bromo-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH) carboxylate (189 mg, 0.5 mmol) and 2-chloro-4-methoxyphenylboronic acid (187 mg, 1.0 mmol) to afford after chromatographic purification the title compound (133 mg, 60%). 1H NMR (CDCl3, 300 MHz) δ7.23 (d, 1H, J=8.8 Hz), 7.01 (s, 2H), 6.97 (s, 1H), 6.84 (dd, 1H, J=8.5, 2.6 Hz), 3.84-4.24 (m, 2H), 3.84 (s, 3H), 3.68-3.74 (m, 1H), 3.24-3.54 (m, 4H), 2.86-3.26 (m, 3H), 1.84-1.8 (m, 2H), 1.49 (s, 9H) ppm. MS-ApCI: 441 [M+H+].

reactant | tert-butyl (6aS,10aR)-2-bromo-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH) carboxylate | 0.5 mmol, 189 mg | BrC=1C=C2[C@H]3[C@@H](N4C2=C(C1)CC4)CCN(C3)C(=O)OC(C)(C)C | C18H23BrN2O2
reactant | 2-chloro-4-methoxyphenylboronic acid | 1.0 mmol, 187 mg | ClC1=C(C=CC(=C1)OC)B(O)O | C7H8BClO3
product | tert-butyl (6aS,10aR)-2-(2-chloro-4-methoxyphenyl)-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate | ClC1=C(C=CC(=C1)OC)C=1C=C2[C@H]3[C@@H](N4C2=C(C1)CC4)CCN(C3)C(=O)OC(C)(C)C | C25H29ClN2O3
